US05514773
To a solution of benzyl (R)-3-(4-aminophenyl)-2-hydroxypropionate (0.26 g) in acetic acid (6 ml) was added paraformaldehyde (0.3 g), and further sodium cyanoborohydride (0.3 g) was added gradually, and stirred for 3 hours. To the solution of sodium bicarbonate (25 ml) and ice (25 g) was added reaction mixture gradually and was extracted with ethyl acetate (50 ml×2). After washing the ethyl acetate layer with saturated brine, it was dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the resultant crude product was purified by silica gel chromatography, and eluted with mixture of ethyl acetate and hexane (7:3, v/v). The fractions containing the desired product were combined and evaporated in vacuo to obtain benzyl (R)-3(4-dimethylaminophenyl)-2-hydroxypropionate (0.22 g). NMR (CDCl3,δ) 2.64 (d,1H),2.91 (s,6H),2.90 (dd,1H),3.04 (dd,1H),4.43 (ddd,1H), 5.18 (s,2H),6.63 (d,2H),7.01 (d,2H),7.35 (bs,5H)

reactant | benzyl (R)-3-(4-aminophenyl)-2-hydroxypropionate | 0.26 g | NC1=CC=C(C=C1)C[C@H](C(=O)OCC1=CC=CC=C1)O | C16H17NO3
reactant | paraformaldehyde | 0.3 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.3 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | benzyl (R)-3(4-dimethylaminophenyl)-2-hydroxypropionate | 0.22 g | CN(C1=CC=C(C=C1)C[C@H](C(=O)OCC1=CC=CC=C1)O)C | C18H21NO3
